US07645785B2
A mixture of 2-azido-phenylamine (68 mg, 0.5 mmol), 2,3-dimethoxy benzoic acid (91 mg, 0.5 mmol), 3-phenylpropanal (67 mg, 0.5 mmol), cyclohexyl isocyanide (55 mg, 0.5 mmol) in 2 ml of methanol was stirred 64 hrs at RT. The mixture was diluted with 7 ml of dichloromethane and treated with 25 μl of diisopropylethylamine. After cooling to 0° C. 450 mg of polymer bound triphenylphosphine (SP-15002B154, 3 mmol/g) were added and the mixture allowed to reach RT within 5 hrs. The resin was then filtered off, washed with dichloromethane and stirred 8 hrs in toluene at 100° C. Removal of the resin by filtration and evaporation of the solvent gave 70 mg (28%) of N-cyclohexyl-2-[2-(2,3-dimethoxy-phenyl)-benzoimidazol-1-yl]-4-phenyl-butyramide as a brown solid, MS (ES+): 498 (M+H).

reactant | 2-azido-phenylamine | 0.5 mmol, 68 mg | N(=[N+]=[N-])C1=C(C=CC=C1)N | C6H6N4
reactant | 2,3-dimethoxy benzoic acid | 0.5 mmol, 91 mg | COC1=C(C(=O)O)C=CC=C1OC | C9H10O4
reactant | 3-phenylpropanal | 0.5 mmol, 67 mg | C1(=CC=CC=C1)CCC=O | C9H10O
reactant | cyclohexyl isocyanide | 0.5 mmol, 55 mg | C1(CCCCC1)[N+]#[C-] | C7H11N
reactant | diisopropylethylamine | 25 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methanol | 2 ml | CO | CH4O
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
product | N-cyclohexyl-2-[2-(2,3-dimethoxy-phenyl)-benzoimidazol-1-yl]-4-phenyl-butyramide | 70 mg, 28% | C1(CCCCC1)NC(C(CCC1=CC=CC=C1)N1C(=NC2=C1C=CC=C2)C2=C(C(=CC=C2)OC)OC)=O | C31H35N3O3
